US08067448B2
N′-((2R,3S)-3-(tert-Butyldimethylsilyloxy)-2-(4-cyano-2-methyl-3-(trifluoromethyl)phenylamino)butanoyl)-4-cyanobenzohydrazide
The crude material 4-cyano-N′-((2R,3S)-2-(4-cyano-2-methyl-3-(trifluoromethyl)phenylamino)-3-hydroxybutanoyl)benzohydrazide (507 mg, 1.14 mmol) was added to DMF (30 mL), followed by addition of TBDMS-Cl (686 mg, 4.55 mmol) and imidazole (619 mg, 9.10 mmol) at 0° C. The solution was allowed to stir at 0° C. for 30 min and then at room temperature for overnight. The reaction was quenched with the addition of 200 mL brine and extracted with EtOAc. The resulting crude material was chromatographed to give the desired product (390 mg) 1H NMR (400 MHz, acetone-d6, δ in ppm): 9.6 (br s), 7.92 (d, J=9 Hz, 2H), 7.8 (d, J=9 Hz, 2H), 7.56 (d, J=9 Hz, 1H), 6.92 (d, J=9 Hz, 1H), 5.55 (d, J=9 Hz, 1H), 4.51 (m, 1H), 4.16 (m, 1H), 2.25 (m, 3H), 1.24 (d, J=6 Hz, 3H), 0.82 (s, 9H), 0.05 (s, 6H), 0.00 (s, 3H).

reactant | 4-cyano-N′-((2R,3S)-2-(4-cyano-2-methyl-3-(trifluoromethyl)phenylamino)-3-hydroxybutanoyl)benzohydrazide | 1.14 mmol, 507 mg | C(#N)C1=CC=C(C(=O)NNC([C@@H]([C@H](C)O)NC2=C(C(=C(C=C2)C#N)C(F)(F)F)C)=O)C=C1 | C21H18F3N5O3
reactant | TBDMS-Cl | 4.55 mmol, 686 mg | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | imidazole | 9.10 mmol, 619 mg | N1C=NC=C1 | C3H4N2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | N′-((2R,3S)-3-(tert-Butyldimethylsilyloxy)-2-(4-cyano-2-methyl-3-(trifluoromethyl)phenylamino)butanoyl)-4-cyanobenzohydrazide | 390 mg | [Si](C)(C)(C(C)(C)C)O[C@H]([C@H](C(=O)NNC(C1=CC=C(C=C1)C#N)=O)NC1=C(C(=C(C=C1)C#N)C(F)(F)F)C)C | C27H32F3N5O3Si
